US09287114B2
To a solution of methyl 15-hydroxypentadecanoate (4.2 g, 15.6 mmol, 1.0 eq) and carbon tetrabromide (5.7 g, 17.1 mmol, 1.1 eq) in dichloromethane (15 mL) cooled to 0° C., was added triphenyl phosphine (4.3 g, 17.1 mmol, 1.1 eq) in portions over 30 min with vigorous stirring. Upon addition of the phosphine, the colourless solution turned a pale brown colour and was stirred for an additional 2 hours at room temperature. The mixture was concentrated in vacuo (using a rotary evaporator attached to a diaphragm pump) to a brown oil. Hexane (200 mL) was quickly added and the resulting mixture was stirred for 15 minutes. The resultant white precipitate was removed by filtration, and the filtrate was concentrated in vacuo. The product was purified by silica gel chromatography (20:1 hexane:ethyl acetate), yielding methyl 15-bromopentadecanoate (4.6 g, 90%) as a colourless solid.

reactant | methyl 15-hydroxypentadecanoate | 15.6 mmol, 4.2 g, 1.0 eq | OCCCCCCCCCCCCCCC(=O)OC | C16H32O3
reactant | carbon tetrabromide | 17.1 mmol, 5.7 g, 1.1 eq | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 17.1 mmol, 4.3 g, 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phosphine | P | H3P
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | methyl 15-bromopentadecanoate | 4.6 g, 90% | BrCCCCCCCCCCCCCCC(=O)OC | C16H31BrO2
